US04496560
Following the working method described in Example 15, 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylaminomethyleneamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (E-form) (0.77 g) is treated with methanesulphonic acid (0.8 cc) in acetonitrile (8 cc). 7-Amino-2-benzhydryloxycarbonyl-3-(2-dimethylaminomethyleneamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (E-form) (0.65 g) is obtained in the form of a crude brown froth (Rf=0.1, silica gel chromatographic plate; eluant: ethyl acetate), and this is redissolved in tetrahydrofuran (15 cc) and acylated, in accordance with the working method described in Example 1, with (thien-2-yl)acetyl chloride (0.15 cc) in the presence of triethylamine (0.17 cc). Chromatography is effected on a column (height: 28 cm; diameter: 2 cm) of silica gel (0.04-0.06 mm), elution being carried out under a pressure of 0.8 bar (80 kPa) by means of ethyl acetate, and 30 cc fractions being collected. Fractions 11 to 19, containing the pure product, are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. 2-Benzhydryloxycarbonyl-3-(2-dimethylaminomethyleneamino-thiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0-oct-2-ene (E-form) (0.13 g) is obtained in the form of a yellow powder.

reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylaminomethyleneamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.77 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)N=CN(C)C)NC(=O)OC(C)(C)C)=O | C31H33N5O5S2
reactant | methanesulphonic acid | 0.8 cc | CS(=O)(=O)O | CH4O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 8 cc | C(C)#N | C2H3N
product | 7-Amino-2-benzhydryloxycarbonyl-3-(2-dimethylaminomethyleneamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.65 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)N=CN(C)C | C26H25N5O3S2
